US05688809
1-(3-Benzoylindol-5-yl)-5-methylbenzimidazole
To a stirred solution of 1-(indol-5-yl)-5-methylbenzimidazole (1.00 g, 4.04 mmol, 2.0 equivalents) in anhydrous benzene (10 mL) at 0° C. under nitrogen was added a solution of ethyl magnesium bromide in ether (3.0M, 1.33 mL, 4.00 mmol, 2.0 equivalents) dropwise, and the resulting reaction solution was stirred at 0° C. under nitrogen for 30 minutes. Then, benzoyl chloride (0.23 mL, 1.98 mmol) was added dropwise rapidly to the reaction solution, and the resulting mixture was stirred at room temperature under nitrogen for 30 min. A saturated solution of sodium hydrogen carbonate (25 mL) was then added to the reaction mixture, and the resulting aqueous mixture was extracted with ethyl acetate (2×25 mL). The extracts were combined, dried (MgSO4), and evaporated under reduced pressure. The residue (2.1 g) was column chromatographed using silica gel (approximately 100 g) and eluted with ethyl acetate/hexanes (1:1) to afford the title compound (0.045 g, 0.13 mmol, 6%) as a white foam. Rf =0.65 in ethyl acetate/hexanes (1:1); 1H NMR (CD3OD) d 8.05-7.95 (m, 3H), 7.81 (d, J=6.8 Hz, 1H), 7.71 (d, J=8.5 Hz, 1H), 7.61-7.39 (m, 7H), 7.18 (d, J=8.4 Hz, 1H), 2.48 (s, 3H); FAB LRMS (m/z, relative intensity) 352 ([MH]+, 78%), 248 ([MH]+ --Ph(CO), 100).

reactant | 1-(indol-5-yl)-5-methylbenzimidazole | 4.04 mmol, 1.00 g, 2.0 equivalents | N1C=CC2=CC(=CC=C12)N1C=NC2=C1C=CC(=C2)C | C16H13N3
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | ether | 4.00 mmol, 3.0M, 1.33 mL, 2.0 equivalents | CCOCC | C4H10O
reactant | benzoyl chloride | 1.98 mmol, 0.23 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydrogen carbonate | 25 mL | C(O)([O-])=O.[Na+]
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 1-(3-Benzoylindol-5-yl)-5-methylbenzimidazole | 0.13 mmol, 0.045 g, 6% | C(C1=CC=CC=C1)(=O)C1=CNC2=CC=C(C=C12)N1C=NC2=C1C=CC(=C2)C | C23H17N3O
